US07612067B2
B. 2,6-Dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine.
A 250 mL round bottom flask is charged with 6-methyl-4-(1-propyl-butyl)-pyridazin-3-ylamine (0.611 g, 0.00295 moles, 1 equiv), ethanol 2B (30 mL), and chloroacetone (0.382 g, 0.328 ml, 0.00412 moles, 1.4 equiv). The reaction mixture is heated at 75° C. overnight and then cooled to room temp. NaHCO3 (0.371 g, 0.00442 moles, 1.5 equiv) is slowly added to the reaction mixture that is then heated to 100° C. overnight. The reaction mixture is cooled and the solvent is evaporated. Dichloromethane is added and the reaction mixture is passed through filter paper. The solvent is evaporated to obtain a brown oil which is purified via silica gel chromatography. The material is eluted with a hexanes and ethyl acetate gradient to obtain 0.511 g of the final products. Two peaks are identified in the lc/ms. The mixture is used “as is” in the next reaction. MS (APCI): 246 (M+1).

reactant | 6-methyl-4-(1-propyl-butyl)-pyridazin-3-ylamine | 0.00295 moles, 0.611 g, 1 equiv | CC1=CC(=C(N=N1)N)C(CCC)CCC | C12H21N3
reactant | chloroacetone | 0.00412 moles, 0.328 ml, 0.382 g, 1.4 equiv | ClCC(C)=O | C3H5ClO
reactant | NaHCO3 | 0.00442 moles, 0.371 g, 1.5 equiv | C(=O)(O)[O-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2,6-Dimethyl-8-(1-propyl-butyl)-imidazo[1,2-b]pyridazine | 0.511 g | CC=1N=C2N(N=C(C=C2C(CCC)CCC)C)C1 | C15H23N3
